US07776869B2
Synthesis of N-(3-(dimethylamino)propyl)-N-methyl-2-nitro-4-(trifluoromethyl)benzenesulfonamide
To a solution of 2-nitro-4-(trifluoromethyl)benzene-1-sulfonyl chloride (500 mg, 1.73 mmol) in CH2Cl2 (5 ml) was added N1,N1,N3-trimethylpropane-1,3-diamine (0.26 ml, 1.8 mmol). The resulting mixture was allowed to stir at room temperature for 20 min. Diluted with CH2Cl2 (30 ml) and washed the organic layer with 9% aq. Na2CO3 (10 ml) and brine (10 ml). Dried over anhydrous sodium sulfate, filtered and concentrated to a white solid, which was used without further purification. MS m/z=370.1 [M+H]+. Calc'd for C13H18F3N3O4S: 369.4.

reactant | 2-nitro-4-(trifluoromethyl)benzene-1-sulfonyl chloride | 1.73 mmol, 500 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3ClF3NO4S
reactant | N1,N1,N3-trimethylpropane-1,3-diamine | 1.8 mmol, 0.26 ml | CN(CCCNC)C | C6H16N2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | N-(3-(dimethylamino)propyl)-N-methyl-2-nitro-4-(trifluoromethyl)benzenesulfonamide | CN(CCCN(S(=O)(=O)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])C)C | C13H18F3N3O4S
